US04649146
A solution of ethyl 2-amino-5-(2-bromoacetyl)-4-thiazolecarboxylate (5.9 g), 2-aminopyrimidine (5.7 g) and triethylamine (8.4 ml) in ethanol (100 ml) was refluxed for 6 hours. The reaction mixture was evaporated in vacuo. To the residue was added a mixture of water and ethyl acetate, and the resulting mixture was acidified to pH 0.5 with conc. hydrochloric acid. The separated aqueous layer was treated with charcoal and filtered. To the filtrate was added ethyl acetate and the resulting mixture was adjusted to pH 7.0 and 20% aqueous potassium carbonate. The precipitate was collected by filtration, washed successively with water, ethyl acetate and ethanol, and dried over phosphorus pentoxide to give 2-(2-amino-4-ethoxycarbonyl-5-thiazolyl)imidazo[1,2-a]pyrimidine (1.6 g). mp 282° C. (dec.)

reactant | ethyl 2-amino-5-(2-bromoacetyl)-4-thiazolecarboxylate | 5.9 g | NC=1SC(=C(N1)C(=O)OCC)C(CBr)=O | C8H9BrN2O3S
reactant | 2-aminopyrimidine | 5.7 g | NC1=NC=CC=N1 | C4H5N3
reactant | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(2-amino-4-ethoxycarbonyl-5-thiazolyl)imidazo[1,2-a]pyrimidine | 1.6 g | NC=1SC(=C(N1)C(=O)OCC)C=1N=C2N(C=CC=N2)C1 | C12H11N5O2S
